US08258141B2
Step 2: (R)—N-((1S,2R,3S,4R)-4-{6-(2,2-Diphenyl-ethylamino)-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-propionamide
A solution of (R)—N-((1S,2R,3S,4R)-4-{6-(2,2-diphenyl-ethylamino)-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-phenoxy-propionamide (83 mg, 0.104 mmol) in EtOH (20 ml) and THF (5 ml) under an inert atmosphere is treated with palladium hydroxide (20% w/w on carbon, 32 mg) followed by acetic acid (2 ml). The reaction mixture is placed under an atmosphere of hydrogen for two weeks after which time, the mixture is filtered and concentrated in vacuo. The resulting crude product is washed with EtOH (3 times), filtered and then concentrated in vacuo. The residue is dissolved in MeOH (2 ml) and purification by reverse phase column chromatography (Isolute™ C18, 0-100% acetonitrile in water—0.1% NH3) affords the title compound as a white solid. (MH+ 707.4)

reactant | (R)—N-((1S,2R,3S,4R)-4-{6-(2,2-diphenyl-ethylamino)-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-phenoxy-propionamide | 0.104 mmol, 83 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)N1C[C@@H](CC1)NC(=O)NC=1C=NC=CC1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC([C@@H](C)OC1=CC=CC=C1)=O)O)O)C1=CC=CC=C1 | C43H46N10O5
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | palladium hydroxide | 32 mg | [OH-].[Pd+2].[OH-]
product | (R)—N-((1S,2R,3S,4R)-4-{6-(2,2-Diphenyl-ethylamino)-2-[(R)-3-(3-pyridin-3-yl-ureido)-pyrrolidin-1-yl]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-propionamide | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)N1C[C@@H](CC1)NC(=O)NC=1C=NC=CC1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC([C@@H](C)O)=O)O)O)C1=CC=CC=C1 | C37H42N10O5
